US04758262
α,α-bis(4-Chlorophenyl)oxiranemethanol
To a solution of 6 g of 4,4'-dichlorobenzophenone in 200 mL of ether was added 30 mL of 1.4M vinylmagnesium bromide/THF at 0°. After being stirred at 25° for 20 minutes, the mixture was poured onto aqueous NH4Cl, partitioned, washed with brine, dried (MgSO4), filtered, and concentrated. The crude adduct was allowed to stand in 50 mL of methylene chloride with 5.8 g of m-chloroperbenzoic acid for 3 days at 25°. The mixture was diluted with CH2Cl2, washed with aqueous NaHSO3, aqueous NaHCO3, brine, dried (Na2SO4), concentrated, and chromatographed (150 mL SiO2 /30% CH2Cl2 in hexane) to provide 2.9 g of the title compound (after washing the concentrated fractions with pentane), m.p. 87°-88°.

reactant | 4,4'-dichlorobenzophenone | 6 g | ClC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H8Cl2O
reactant | vinylmagnesium bromide THF | 1.4M, 30 mL | C(=C)[Mg]Br.C1CCOC1
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 200 mL | CCOCC | C4H10O
product | α,α-bis(4-Chlorophenyl)oxiranemethanol | 2.9 g | ClC1=CC=C(C=C1)C(O)(C1OC1)C1=CC=C(C=C1)Cl | C15H12Cl2O2
